US09340507B2
1-Ethyl-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid 4-methanesulfonyl-benzylamide
A mixture of 6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid 4-methanesulfonyl-benzylamide (preparation 1, 100 mg, 0.215 mmol), K2CO3 (48 mg, 0.344 mmol) and iodoethane (20 μL, 0.250 mmol) in DMF (1 mL) is stirred for 30 min at 80° C. (microwave). The reaction mixture is diluted with MeOH, filtered and purified by preparative reversed-phase HPLC (XBridge, gradient of methanol in water, 0.3% NH4OH, 60° C.). Yield: 52 mg (49% of theory); ESI mass spectrum: [M+H]+=493; Retention time HPLC: 1.03 min (Z003_001).

reactant | 6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid 4-methanesulfonyl-benzylamide | 0.215 mmol, 100 mg | CS(=O)(=O)C1=CC=C(CNC(=O)C2=CNC(=C(C2=O)C2=CC(=CC=C2)C(F)(F)F)C)C=C1 | C22H19F3N2O4S
reactant | K2CO3 | 0.344 mmol, 48 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | iodoethane | 0.250 mmol, 20 μL | ICC | C2H5I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-Ethyl-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid 4-methanesulfonyl-benzylamide | CS(=O)(=O)C1=CC=C(CNC(=O)C2=CN(C(=C(C2=O)C2=CC(=CC=C2)C(F)(F)F)C)CC)C=C1 | C24H23F3N2O4S
